US04576949
A solution of 5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid ethyl ester as prepared in Preparation I (3.66 g) in acetic anhydride (10 ml) is treated with sodium acetate (1.37 g) and 2-thiophenecarboxaldehyde (2.24 g). The solution is heated at reflux temperature for 56 hours. The cooled mixture is diluted with toluene, filtered and the filtrate evaporated to a solid residue. The residue is triturated with hexane and filtered to yield a residue of 5,6,7,8-tetrahydro-2-methyl-8-(2-thienylmethylene)-3-quinoline carboxylic acid ethyl ester (1.91 g) m.p. 117° C.-118° C. The filtrate residue is purified on silica gel (70 g) with 9:1 Skelly B:ethyl acetate as eluent. Fractions 7-13, 20 ml each, provide additional 5,6,7,8-tetrahydro-2-methyl-8-(2-thienylmethylene)-3-quinoline carboxylic acid ethyl ester (0.73 g). An analytical sample, m.p. 117° C.-118° C. is obtained by hexane recrystallization.

reactant | 5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC=2CCCCC2C1)C | C13H17NO2
reactant | sodium acetate | 1.37 g | C(C)(=O)[O-].[Na+]
reactant | 2-thiophenecarboxaldehyde | 2.24 g | S1C(=CC=C1)C=O | C5H4OS
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5,6,7,8-tetrahydro-2-methyl-8-(2-thienylmethylene)-3-quinoline carboxylic acid ethyl ester | 1.91 g | C(C)OC(=O)C=1C(=NC=2C(CCCC2C1)=CC=1SC=CC1)C | C18H19NO2S
